US09359359B2
To a solution of 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (0.9 g, 1.5 mmol) in ethanol (10 mL) was added HCl (2 mL), then it was refluxed overnight. The solvent was concentrated to give a crude product which was collected, washed with ethanol and dried in vacuo to give 1-(3-hydroxypropyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (0.5 g, 80% yield) as a white solid. 1H-NMR (DMSO-d6) δ 13.52 (br, 1H), 7.55-7.59 (t, 1H), 7.47 (s, 1H), 7.36-7.38 (d, 1H), 7.28-7.30 (d, 1H), 4.45 (br, 1H), 3.89-3.93 (t, 2H), 3.39-3.43 (t, 2H), 3.42 (s, 3H), 1.66-1.69 (m, 2H). LCMS retention time 1.308 min, LCMS MH+ 401.

reactant | 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 1.5 mmol, 0.9 g | CN1C(N(C(C=2N(C(=NC12)OC1=CC(=CC=C1)OC(F)(F)F)COCC[Si](C)(C)C)=O)CCCOC1OCCCC1)=O | C27H37F3N4O7Si
reactant | HCl | 2 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(3-hydroxypropyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.5 g, 80% yield | OCCCN1C(N(C=2N=C(NC2C1=O)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C16H15F3N4O5
